US09163003B2
(S)-3-[4-(4-Methoxy-benzoyl)-piperidin-1-yl]-pyrrolidin-2-one
To a suspension of (4-methoxyphenyl)(piperidin-4-yl)methanone (34 g, 155 mmol) and (R)-2-oxopyrrolidin-3-yl methanesulfonate (34.7 g, 194 mmol) in acetonitrile (388 mL) at room temperature was added DIPEA (108 mL, 620 mmol) and the reaction was heated to 60 C for 29 h then allowed to cool to room temperature and stirred for an additional 24 h. The reaction mixture was concentrated in vacuo to afford a waxy solid which was taken up in ethyl acetate (300 mL) and sonicated. The mixture was filtered and the resulting white solid was washed with ethyl acetate (200 mL) to yield 21.05 g. The combined filtrates were concentrated and purified via silica gel chromatography (330 g isco 0.01% NH4OH 5-10% MeOH/ethyl acetate). Pure fractions were combined, concentrated in vacuo and then taken up in ethyl acetate (80-100 mL) and stirred. A white precipitate formed that was collected by filtration. The filtrate was concentrated to a gold oil, taken up in ethyl acetate to afford a white precipitate that was collected by filtration. A total of 27.7 g of the title material was obtained as a white solid. Calculated MS=302.4. found MS (ESI) m/e 303.4 (M+H+)

reactant | (4-methoxyphenyl)(piperidin-4-yl)methanone | 155 mmol, 34 g | COC1=CC=C(C=C1)C(=O)C1CCNCC1 | C13H17NO2
reactant | (R)-2-oxopyrrolidin-3-yl methanesulfonate | 194 mmol, 34.7 g | CS(=O)(=O)O[C@H]1C(NCC1)=O | C5H9NO4S
reactant | DIPEA | 620 mmol, 108 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 388 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | (S)-3-[4-(4-Methoxy-benzoyl)-piperidin-1-yl]-pyrrolidin-2-one | 27.7 g | COC1=CC=C(C(=O)C2CCN(CC2)[C@@H]2C(NCC2)=O)C=C1 | C17H22N2O3
